US06306892B1
As described in Example 1(a) for the preparation of 3-biphenyl-4-yl-furan, crude 4′-bromo-biphenyl-4-carbonitrile (200 mg, 0.775 mmol) and 3-fuiranboronic acid (see Thompson, W. J.; Gaudino, G. J. Org. Chem. 1984, 49, 5237-5243; 105 mg, 0.937 mmol) in MeOH (2 mL) were coupled to give a yellow solid, which was purified via preparative TLC. Elution with EtOAc:benzene (1:99) provided 100 mg (53%) of 4′-furan-3-yl-biphenyl-4-carbonitrile as a grey powder, mp 199-203° C.

reactant | 3-biphenyl-4-yl-furan | C1(=CC=C(C=C1)C1=COC=C1)C1=CC=CC=C1 | C16H12O
reactant | 4′-bromo-biphenyl-4-carbonitrile | 0.775 mmol, 200 mg | BrC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C13H8BrN
solvent | MeOH | 2 mL | CO | CH4O
product | 4′-furan-3-yl-biphenyl-4-carbonitrile | 100 mg, 53% | O1C=C(C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C17H11NO
